US06987195B2
Preparation of PEG-3 PPG-3 2-Phenoxyethanol Ether
To a clean, dry stirred tank pressure vessel with nitrogen inlet is charged 1553.93 g (11.25 moles) of 2-Phenoxyethanol and a catalytic amount (16.67 g) of 45% KOH. The vessel is purged with nitrogen and heated to 110° C. Vacuum is applied for 1 hour to remove trace amounts of water and the temperature is raised to 150° C. A mixture of 1919.03 g (33.04 moles) of Propylene Oxide and 873.28 g (19.82 moles) of Ethylene Oxide is added at a constant rate to keep the pressure below 50 psig. After all Propylene Oxide/Ethylene Oxide is added, the reaction mixture is allowed to react for an additional hour after which the temperature is lowered to 110° C. and vacuum is applied for one hour. The reaction mixture is cooled to 65° C. and the catalyst is neutralized with an equivalent molar amount of 25% Sulfuric Acid.

reactant | 2-Phenoxyethanol | 11.25 moles, 1553.93 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | KOH | 16.67 g | [OH-].[K+]
reactant | Propylene Oxide | 33.04 moles, 1919.03 g | C1C(C)O1 | C3H6O
reactant | Ethylene Oxide | 19.82 moles, 873.28 g | C1CO1 | C2H4O
reactant | Propylene Oxide Ethylene Oxide | C1C(C)O1.C1CO1
reactant | Sulfuric Acid | S(O)(O)(=O)=O | H2O4S
product | 2-Phenoxyethanol Ether | O(C1=CC=CC=C1)CCO.CCOCC | InChI=1S/C8H10O2.C4H10O/c9-6-7-10-8-4-2-1-3-5-8;1-3-5-4-2/h1-5,9H,6-7H2;3-4H2,1-2H3
